US07163942B2
2-(4-Chloro-benzenesulfonylamino)-3-phenyl-propionamide
To 2-(4-Chloro-benzenesulfonylamino)-3-phenyl-propionic acid methyl ester (750 mg) is added 10 mL of a 1.0 M solution of ammonia in methanol. The reaction is heated for 48 h at 65° C., cooled to room temperature, and the solvent removed. The resultant solid is first triturated with ethyl acetate, filtered, and then triturated with methylene chloride to provide the title compound. 1HNMR (400 MHz, CD3OD) 2.70 (dd, 1H, J=14.0 Hz and 9.6 Hz), 3.01 (dd, 1H, J=14.0 Hz and 5.4 Hz), 3.95 (dd, 1H, J=9.0 Hz and 5.0 Hz), 7.05–7.15 (m, 5H), 7.32–7.36 (m, 2H), and 7.53–7.56 (m, 2H). MS 339.1 m/z (M+1).

reactant | 2-(4-Chloro-benzenesulfonylamino)-3-phenyl-propionic acid methyl ester | 750 mg | COC(C(CC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C16H16ClNO4S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-(4-Chloro-benzenesulfonylamino)-3-phenyl-propionamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N)CC1=CC=CC=C1 | C15H15ClN2O3S
